US07696223B2
a) 1-Benzyl-3,7-dichloro-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 1-benzyl-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (1.814 g, 6.12 mmol), NCS (1.72 g, 12.85 mmol) and BzOOBz (75 mg, 0.31 mmol) in carbontetrachloride (30 mL) was refluxed for 60 min. Then the reaction was cooled and concentrated, the resulting mixture was purified by column to give the title compound (1.469 mg) ESI MS (m/z) 365 (M+H)+; and a by-product, 1-benzyl-2,3,7-trichloro-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester as by product (90 mg) ESI MS (m/z): 399 (M+H)+.

reactant | 1-benzyl-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 6.12 mmol, 1.814 g | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)CC2=CC=CC=C2)O | C17H16N2O3
reactant | NCS | 12.85 mmol, 1.72 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | BzOOBz | 0.31 mmol, 75 mg | C(=O)(C1=CC=CC=C1)OOC(=O)C1=CC=CC=C1 | C14H10O4
reactant | carbontetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Benzyl-3,7-dichloro-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 1.469 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)Cl)N(C=C2Cl)CC2=CC=CC=C2)O | C17H14Cl2N2O3
